US04851425
1-(4-Nitrophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-hexanoic acid methyl ester (Formula XII, R1 =4-nitrophenyl, M1 =CH3, n=3, w=2) Refer to Chart B
A solution of 6-[4,5,6,7-tetrahydro-1-(4-nitrophenyl)-1H-inda-zol-3-yl]hexanoic acid (1.11 g, 3 mmol) in THF (10 ml) was treated with sodium borohydride (0.175 g) and boron trifluoride etherate (4.7 mmol) in THF (11 ml) during 0.5 hour. The solution was reacted for 18 hours at ambient temperature, treated with propionic acid (2 ml), and heated at 70° C. for 2 hours. The solution was cooled, dilution with water and the precipitate was extracted into ethyl acetate. Drying and evaporation of solvent gave crude title compound (1.69 g) as a viscous residue. Polar impurities were removed by filtration through silica gel (100 g) to yield pure title compound (0.45 g), m.p. 60°-61° C., after methanol crystallization.

reactant | 6-[4,5,6,7-tetrahydro-1-(4-nitrophenyl)-1H-inda-zol-3-yl]hexanoic acid | 3 mmol, 1.11 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=2CCCCC12)CCCCCC(=O)O | C19H23N3O4
reactant | sodium borohydride | 0.175 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 4.7 mmol | B(F)(F)F.CCOCC
reactant | propionic acid | 2 ml | C(CC)(=O)O | C3H6O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 11 ml | C1CCOC1 | C4H8O
product | 1-(4-Nitrophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-hexanoic acid methyl ester | 0.45 g | COC(CCCCCC1=NN(C=2CCCCC12)C1=CC=C(C=C1)[N+](=O)[O-])=O | C20H25N3O4
